US07541466B2
Step 1) Preparation of 2-Isopropoxyisonicotinonitrile
To isopropanol (30.0 mL) was added sodium hydride (0.606 g of 60% dispersion, 15.2 mmol) in small portions over 5 minutes. The resulting gel-like suspension was stirred for an additional 5 minutes at room temperature. 2-Chloro-4-cyanopyridine (2.00 g, 14.4 mmol) was then added in one portion and the resulting solution was heated to reflux. After 1 hour, the reaction mixture was allowed to cool to room temperature. The mixture was diluted with water and extracted with ethyl acetate. The organic phase was washed with water and brine, dried (magnesium sulfate) and concentrated to provide a yellow oil. Flash chromatography over silica (hexanes/ethyl acetate) afforded 1.25 g (53%) of product as a colorless oil: 1H NMR (CDCl3) δ 8.27 (d, J=5.2 Hz, 1H), 7.01 (dd, J=5.2, 1.4 Hz, 1H), 6.91 (d, J=1.4 Hz, 1H), 5.31 (sept, J=6.2 Hz, 1H), 3.33 (d, J=6.2 Hz, 6H) ppm.

reactant | isopropanol | 30.0 mL | C(C)(C)O | C3H8O
reactant | sodium hydride | 15.2 mmol, 0.606 g | [H-].[Na+]
reactant | 2-Chloro-4-cyanopyridine | 14.4 mmol, 2.00 g | ClC1=NC=CC(=C1)C#N | C6H3ClN2
solvent | water | O | H2O
product | 2-Isopropoxyisonicotinonitrile | 1.25 g, 53% | C(C)(C)OC=1C=C(C#N)C=CN1 | C9H10N2O
